US07615643B2
Methyl 3-{[(1R)-1-(2-chlorophenyl)ethyl]oxy}-5-nitro-2-thiophenecarboxylate was prepared from methyl 3-hydroxy-5-nitro-2-thiophenecarboxylate and (1S)-1-(2-chlorophenyl)ethanol by a procedure analogous to Intermediate 29, Step A. 1H NMR (400 MHz, DMSO-d6): δ 7.96 (s, 1H), 7.65 (dd, 1H, J=1.7, 7.8 Hz), 7.47 (dd, 1H, J=1.5, 7.7 Hz), 7.40 (dt, 1H, J=1.3, 7.5 Hz), 7.34 (dt, 1H, J=1.9, 7.5 Hz), 5.98 (q, 1H, J=6.0 Hz), 3.85 (s, 3H), 1.59 (d, 3H, J=6.2 Hz).

reactant | methyl 3-hydroxy-5-nitro-2-thiophenecarboxylate | OC1=C(SC(=C1)[N+](=O)[O-])C(=O)OC | C6H5NO5S
reactant | (1S)-1-(2-chlorophenyl)ethanol | ClC1=C(C=CC=C1)[C@H](C)O | C8H9ClO
product | Methyl 3-{[(1R)-1-(2-chlorophenyl)ethyl]oxy}-5-nitro-2-thiophenecarboxylate | ClC1=C(C=CC=C1)[C@@H](C)OC1=C(SC(=C1)[N+](=O)[O-])C(=O)OC | C14H12ClNO5S
